US05468751
N-butyl lithium (1.6 mol solution in hexane, 19.4 ml) is added dropwise at 0° C., under a nitrogen atmosphere, to a solution of diisopropylamine (4.4 ml) in tetrahydrofuran (100 ml), and the mixture is stirred for 20 minutes. The solution is cooled to -78° C. and then 5 g of 4,5-dichloro-6-ethylpyrimidine in solution in 10 ml of tetrahydrofuran are added dropwise. The mixture is stirred at -78° C. for one hour and then brought to room temperature over a period of 2 hours. After the addition of water (200 ml), the mixture is extracted with ethyl acetate and the organic phase is dried over sodium sulfate and concentrated. Chromatography on silica gel (eluant: ethyl acetate/hexane 1:10) yields 3.8 g (71% of the theoretical yield) of 4,5-dichloro-6-isopropylpyrimidine in the form of a yellow oil.

reactant | diisopropylamine | 4.4 ml | C(C)(C)NC(C)C | C6H15N
reactant | 4,5-dichloro-6-ethylpyrimidine | 5 g | ClC1=NC=NC(=C1Cl)CC | C6H6Cl2N2
reactant | water | 200 ml | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 4,5-dichloro-6-isopropylpyrimidine | ClC1=NC=NC(=C1Cl)C(C)C | C7H8Cl2N2
